US06911463B2
A 0° C. solution of indole (7 g, 59.8 mmol) in 200 ml of dimethylformamide is treated with NaH (60% dispersion in mineral oil; 3.1 g, 77.7 mmol). After 20 minutes, bromoacetonitrile (4.2 ml, 59.8 mmol) is added, and the resulting mixture is allowed to slowly warm to ambient temperature and stir overnight. The reaction mixture is diluted with ethyl acetate (500 ml) and washed with H2O (3×200 ml). The organic layer is dried over Na2SO4 and concentrated in vacuo. The crude residue is purified by flash chromatography (SiO2; 5% then 20% ethyl acetate in hexanes) to give 2.53 g of indol-1-yl-acetonitrile (27%).

reactant | indole | 59.8 mmol, 7 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NaH | 77.7 mmol, 3.1 g | [H-].[Na+]
reactant | bromoacetonitrile | 59.8 mmol, 4.2 ml | BrCC#N | C2H2BrN
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | indol-1-yl-acetonitrile | 2.53 g, 27% | N1(C=CC2=CC=CC=C12)CC#N | C10H8N2
